US06486153B1
(b) 1-tert-Butoxycarbonyl-2-[3,5-bis(trifluoromethyl)phenyl]-3-(2-hydroxyethyl)-1H-indole
PPTS (95 mg) was added to a stirred solution of 1-tert-butoxycarbonyl-2-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1H-indole (2.1 g) in ethanol (50 ml) and warmed to 50° C. for 3 h. The reaction mixture was allowed to cool to room temperature, poured into brine (80 ml) and extracted into diethyl ether. The organic layers were separated, dried over MgSO4, filtered and the solvent removed under reduced pressure to give a clear oil which crystallized on standing (1.67 g). 1H NMR (CDCl3) δ1.23 (s, 9H), 2.79 (t, 2H, J=7.2 Hz), 3.86 (m, 2H), 7.27 (t, 1H, J=7.0 Hz), 7.34 (t, 1H, J=7.0 Hz), 7.60 (d, 1H, J=10.0 Hz), 7.90 (s, 3H), 8.28 (d, 1H, J=10.0 Hz).

reactant | PPTS | 95 mg | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
reactant | 1-tert-butoxycarbonyl-2-[3,5-bis(trifluoromethyl)phenyl]-3-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1H-indole | 2.1 g | C(C)(C)(C)OC(=O)N1C(=C(C2=CC=CC=C12)CCOC1OCCCC1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C28H29F6NO4
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | brine | 80 ml | [Cl-].[Na+].O
product | 1-tert-Butoxycarbonyl-2-[3,5-bis(trifluoromethyl)phenyl]-3-(2-hydroxyethyl)-1H-indole | C(C)(C)(C)OC(=O)N1C(=C(C2=CC=CC=C12)CCO)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C23H21F6NO3
